************************************************ 
*         NOMINAL N-CHANNEL TRANSISTOR         * 
*            UCB-3 PARAMETER SET               * 
*                  Nov-1995                    * 
************************************************ 
.MODEL MNEN NMOS 
+LEVEL = 3 
+KP    = 154E-6 
+VTO   = 0.57 
+TOX   = 15E-9 
+NSUB  = 7.8E16 
+GAMMA = 0.70 
+PHI   = 0.65 
+VMAX  = 187E3 
+RS    = 7.5 
+RD    = 7.5 
+XJ    = 0.26E-6 
+LD    = 0.11E-6 
+DELTA = 1.89 
+THETA = 0.072 
+ETA   = 0.043 
+KAPPA = 0.0 
+WD    = 0.0 
 
*********************************************** 
*        NOMINAL P-CHANNEL TRANSISTOR         * 
*           UCB-3 PARAMETER SET               * 
*                  Nov-1995                   * 
*********************************************** 
.MODEL MPEN PMOS 
+LEVEL = 3 
+KP    = 63.7E-6 
+VTO   = -0.67 
+TOX   = 15.0E-9 
+NSUB  = 6.0E16 
+GAMMA = 0.84 
+PHI   = 0.65 
+VMAX  = 1.0E6 
+RS    = 10 
+RD    = 10 
+XJ    = 0.30E-6 
+LD    = 0.04E-6 
+DELTA = 2.88 
+THETA = 0.189 
+ETA   = 0.091 
+KAPPA = 0.0 
+WD    = -0.03E-6 


****************************************************** 
*     START OF LVC CIRCUITS DESCRIPTION MODELS       * 
*                     OCT. 1998                      * 
****************************************************** 
 
.SUBCKT INVERT2  2  4  1  90 
* INVERTING BUFFER TYPE 
* EQUIVALENT REFERENCE SIMULATION MODEL NOMINAL CASE 
* USE THIS MODEL FOR 74LVCU04A
* IN = 2,  OUT = 4,  VCC = 1,  GND = 90 
* OCTOBER-1995 
XIN1   20  30  50  60      LVCPROTN 
XOUT   30  40  50  60      LVCOUT2N 
XPK14 2 4 90 90 90 90 90 90 90 90 90 90 90 1 
+ 20 40 90 90 90 90 60 90 90 90 90 90 90 50 pk14 
.ENDS 

*********************************************** 
*       START OF SUBCIRCUIT DESCRIPTION       * 
*                  MAR. 1999                  * 
*********************************************** 
 
.SUBCKT LVCPROTN    2   3   50   60 
* NOMINAL CASE PARAMETERS 
* STANDARD LVC INPUT ESD STRUCTURE 
* IN = 2,  OUT = 3,  VCC = 50,  GND = 60 
* OCTOBER-1995 
MN1 2 60 60 60 MNEN W=400U L=1.0U AD=7390P AS=208P PD=688U PS=420U 
R1  3  2  100 
MN2 3 60 60 60 MNEN W=43U L=1.0U AD=176P AS=208P PD=58U PS=58U 
.ENDS 

.SUBCKT LVCOUT2N    5   4   50   60 
* NOMINAL CASE PARAMETERS 
* OUTPUT MODULE 
* IN1 = 5, OUT = 4,  VCC = 50,  GND = 60 
* NOVEMBER 1995 
* Increased output transistor sizes 
R1  5 16 250 
MP6 4 16 50 50 MPEN W=185U L=0.8U AD=370P AS=350P PD=125U PS=185U 
R2 16  9 500 
MP7 4  9 50 50 MPEN W=275U L=0.8U AD=450P AS=400P PD=175U PS=275U 
R3  9 10 1K 
MP8 4 10 50 50 MPEN W=350U L=0.8U AD=700P AS=500P PD=225U PS=350U 
R4 10 11 1.5k 
MP9 4 11 50 50 MPEN W=350U L=0.8U AD=700P AS=500P PD=225U PS=350U 
R5  5 17 300 
MN6 4 17 60 60 MNEN W= 125U L=0.8U AD=250P AS=200P PD=100U PS=125U 
R6 17 12 750 
MN7 4 12 60 60 MNEN W=125U L=0.8U AD=250P AS=200P PD=100U PS=125U 
R7 12 13 1K 
MN8 4 13 60 60 MNEN W=150U L=0.8U AD=300P AS=250P PD=125U PS= 150U 
R8 13 14 1.5K 
MN9 4 14 60 60 MNEN W= 150U L=0.8U AD= 300P AS= 250P PD=125U PS=150U 
.ENDS 







* TITLE TSSOP8
* SPICE format. The pins chosen are shown by the inductor and resistor names.
* L7 or R7 shows that pin 7 was chosen.  Internal subcircuit nodes are
* ordered in an IN/OUT format.  1 is the board end of the first chosen pin, 
* 2 is its die end. 3 is the board end of the 2nd chosen pin.  Etc.
*
.SUBCKT pk8 1 3 5 7  9 11 13 15
+           2 4 6 8 10 12 14 16
R1  1 1001  6.28E-02
R2  3 1003  4.72E-02
R3  5 1005  4.65E-02
R4  7 1007  6.15E-02
R5  9 1009  6.22E-02
R6 11 1011  4.69E-02
R7 13 1013  4.67E-02
R8 15 1015  6.18E-02

L1 1001  2  1.584E-09
L2 1003  4  1.312E-09
L3 1005  6  1.251E-09
L4 1007  8  1.472E-09
L5 1009 10  1.484E-09
L6 1011 12  1.256E-09
L7 1013 14  1.304E-09
L8 1015 16  1.527E-09
.ENDS pk8

* TITLE TSSOP14
* SPICE format. The pins chosen are shown by the inductor and resistor names.
* L7 or R7 shows that pin 7 was chosen.  Internal subcircuit nodes are
* ordered in an IN/OUT format.  1 is the board end of the first chosen pin, 
* 2 is its die end. 3 is the board end of the 2nd chosen pin.  Etc.
*
.SUBCKT pk14 1 3 5 7 9 11 13 15 17 19
+  21 23 25 27
+  2 4 6 8 10 12 14 16 18 20
+  22 24 26 28
* pin resistors SI units, bondwire diameter, resistivity =  2.54E-05,  2.44E-08
* leadframe thickness, resistivity =  1.50E-04,  2.87E-08
R1 1 1001   3.46E-02
R2 3 1003   4.33E-02
R3 5 1005   2.80E-02
R4 7 1007   2.88E-02
R5 9 1009   2.80E-02
R6 11 1011   4.33E-02
R7 13 1013   3.46E-02
R8 15 1015   3.46E-02
R9 17 1017   4.33E-02
R10 19 1019   2.80E-02
R11 21 1021   2.88E-02
R12 23 1023   2.80E-02
R13 25 1025   4.33E-02
R14 27 1027   3.46E-02

* linear inductors leadframe thickness, resistivity =  1.50E-04,  2.87E-08
L1 1001 2   2.32E-09
L2 1003 4   2.04E-09
L3 1005 6   1.36E-09
L4 1007 8   1.38E-09
L5 1009 10   1.36E-09
L6 1011 12   2.04E-09
L7 1013 14   2.32E-09
L8 1015 16   2.32E-09
L9 1017 18   2.04E-09
L10 1019 20   1.36E-09
L11 1021 22   1.38E-09
L12 1023 24   1.36E-09
L13 1025 26   2.04E-09
L14 1027 28   2.31E-09
* mutual inductors small ones pruned
* If all the pins are in series, equivalent L =   2.56E-08  equivalent R =   4.81E-01
* If all the pins are in parallel, equivalent L =   1.24E-10  equivalent R =   2.38E-03
.ENDS pk14


.SUBCKT 74LVCU04NXP  In Out Vcc Gnd

XLVCU04A        In Out Vcc Gnd     INVERT2 

.ENDS
